US06949552B2
5.0 g of 1-t-Butoxycarbonyl-4-[carboxy-(4-fluorophenyl)methyl]-3,6-dihydro-2H-pyridine was dissolved in 50 ml of methanol, and 0.50 g of palladium hydroxide/carbon was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 days. After removal of the catalyst by Celite filtration, the filtrate was concentrated under reduced pressure to give 3.6 g of a crude 1-t-butoxycarbonyl-4-[carboxy-(4-fluorophenyl)methyl]piperidine.

reactant | 1-t-Butoxycarbonyl-4-[carboxy-(4-fluorophenyl)methyl]-3,6-dihydro-2H-pyridine | 5.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C(C1=CC=C(C=C1)F)C(=O)O | C18H22FNO4
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium hydroxide/carbon | 0.50 g | [OH-].[OH-].[Pd+2]
product | 1-t-butoxycarbonyl-4-[carboxy-(4-fluorophenyl)methyl]piperidine | 3.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)C(=O)O | C18H24FNO4
